US06734200B1
Aminopyrazine (3 g, 31.6 mM) was dissolved in dry dichloromethane (100 ml), and 4-dimethylaminopyridine (200 mg ) and di-t-butyl dicarbonate (14 g, 64.2 mM) added. The mixture was stirred at ambient temperature for 18 hours, then evaporated to dryness. The residue was purified by chromatography on a 50 g Isolute silica column, eluting with dichloromethane. Relevant fractions were combined and evaporated to give di-(t-butoxycarbonyl)aminopyrazine (2.4 g). NMR (DMSO-d6) δ: 1.36 (s, 18H); 8.55 (d, 1H); 8.58 (d, 1H); 8.73 (s, 1H). MS (ESP): 296 (MH+) for C14H21N3O4

reactant | Aminopyrazine | 31.6 mM, 3 g | NC1=NC=CN=C1 | C4H5N3
reactant | di-t-butyl dicarbonate | 64.2 mM, 14 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 200 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | di-(t-butoxycarbonyl)aminopyrazine | 2.4 g | C(C)(C)(C)OC(=O)N(C(=O)OC(C)(C)C)C1=NC=CN=C1 | C14H21N3O4
